US04603224
24.3 g (0.1 mole) of 1-(2,4-dichlorophenoxy)-3,3-dimethylbut-1-yne were initially taken together with 16.3 g (0.1 mole) of 2,4-dichlorophenol and 1.4 g (0.01 mole) of zinc chloride, and the stirred mixture was heated at 160° C. After 30 minutes, the phenol had reacted quantitatively with the phenoxyalkyne to give 1,1-bis-(2,4-dichlorophenoxy)-3,3-dimethylbut-1-ene.

reactant | 1-(2,4-dichlorophenoxy)-3,3-dimethylbut-1-yne | 0.1 mole, 24.3 g | ClC1=C(OC#CC(C)(C)C)C=CC(=C1)Cl | C12H12Cl2O
reactant | 2,4-dichlorophenol | 0.1 mole, 16.3 g | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
catalyst | zinc chloride | 0.01 mole, 1.4 g | [Cl-].[Zn+2].[Cl-]
product | 1,1-bis-(2,4-dichlorophenoxy)-3,3-dimethylbut-1-ene | ClC1=C(OC(=CC(C)(C)C)OC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C18H16Cl4O2
